US05521184
In accordance with the general procedure described in Example 32, reaction of 213 mg(1 mmol) of 3-dimethylamino-1-(3-indolyl)-2-propen- 1-one [described in EP-A-0 233 461] and 310 mg (1 mmol) of 3-(1,1,2,2-tetrafluoroethoxy)phenylguanidine nitrate gives N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(3-indolyl)-2-pyrimidine-amine; m.p. 140°-142°, FAB-MS: 403 (M+ +1).

reactant | 3-dimethylamino-1-(3-indolyl)-2-propen- 1-one | 1 mmol, 213 mg | CN(C=CC(=O)C1=CNC2=CC=CC=C12)C | C13H14N2O
reactant | 3-(1,1,2,2-tetrafluoroethoxy)phenylguanidine nitrate | 1 mmol, 310 mg | [N+](=O)(O)[O-].FC(C(F)F)(OC=1C=C(C=CC1)NC(=N)N)F
product | N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(3-indolyl)-2-pyrimidine-amine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CNC2=CC=CC=C12)F | C20H14F4N4O
